US05324833
1.5 g (2.27 mmol) of Fmoc-Gln(Trt)-OH×0.5 diisopropyl ether and 0.46 g (2.5 mmol) of pentafluoro-phenol are dissolved in 35 ml of ethyl acetate, cooled to 0° and, while stirring, 0.52 g (2.5 mmol) of dicyclohexylcarbodiimide is added. The mixture is stirred at 0° for 1 hour and at room temperature for 3 hours, and insoluble material is filtered off and washed with tetrahydrofuran. The filtrate is evaporated to dryness, and the residue is dissolved in 30 ml of tetrahydrofuran. Slow addition of petroleum ether while stirring results in crystallization of Fmoc-Gln(Trt)-OPfp; m.p. 185°-187°, [α]D20 =-16.4° (THF).

reactant | Fmoc-Gln(Trt)-OH | 2.27 mmol, 1.5 g | N([C@@H](CCC(NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C39H34N2O5
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
reactant | pentafluoro-phenol | 2.5 mmol, 0.46 g | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | dicyclohexylcarbodiimide | 2.5 mmol, 0.52 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | ethyl acetate | 35 ml | C(C)(=O)OCC | C4H8O2
product | Fmoc-Gln(Trt)-OPfp | N([C@@H](CCC(NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)OC1=C(F)C(F)=C(F)C(F)=C1F)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C45H33F5N2O5
